Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],5.09025225695
[C:4](=[C:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([C:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.49926906072
[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.19607461344
[C:2](#[C:3][H:4])[O:5][C:6]#[C:7][H:8].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8],-3.8043655246900014
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.5105812001
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11],5.117332705880001
[H:1][O:2][C:3]([H:4])[C:6](=[O:5])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10],1.33148067791
[O:1]=[C:2]1[C:3]2[C:4]([H:5])([H:6])[C@@:7]12[O:8][H:9]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],0.19333346581
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.06056050615
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.3004374614299998
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.0806507358099995
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],1.10390864506
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.81299658501
[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-1.85574273403
[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.94292103906
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.21506373769
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.26541387079
[C:1][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[C:2]#[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-7.73127135923
[H:1][O:2][C:3]([O:4][C:5][H:6])=[C:8]([H:9])[H:10].[H:7]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-4.22142286182
[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[H:14])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.04662024823
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][O:2][C:3][H:4],4.83431307749
[C:1]([C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])([H:5])([H:6])[H:7].[C:3]#[C:4]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.90185171747
[C:3](\[O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.33974134441
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10](=[C:8][H:9])[H:11]>>[C:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11],-2.14926649235
[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-3.36363963559
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11],-4.06112676956
[H:1][O:2]/[C:3]([H:4])=[C:7](/[C:6]=[O:5])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]1[C:8]([H:9])([H:10])[H:11],2.07190607967
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.01063846884
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])[O:7][H:8],2.47591611317
[H:1][C:2][O:3][C:4][O:5][C:6]#[C:8][H:9].[H:7]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9],-2.51964321938
